US07259183B2
Preparation of 1H-Indole-7-carboxylic acid (4-tert-butyl-benzyl)-[2-(3-trifluoromethyl-phenoxy)-ethyl]-amide 113
To a solution of 175 mg (0.5 mmol) of 1H-indole-7-carboxylic acid (4-tert-butyl-benzyl)-(2-hydroxy-ethyl)-amide, 91 mg (0.55 mmol) of 3-hydroxy-benzotrifluoride and 144 mg (0.55 mmol) of triphenyl phosphine in 5 ml THF were added dropwise 88 μl (0.55 mmol) azodicarboxylic acid diethyl ester at 0° C. The reaction mixture was stirred at rt over night. The solvent was evaporated and the residue purified by column chromatography (20 g silica gel, diethyl ether/heptane 1:1) to yield 182 mg (74%) product as a white solid. MS (ISP) 495.5 (M+H)+.

reactant | 1H-indole-7-carboxylic acid (4-tert-butyl-benzyl)-(2-hydroxy-ethyl)-amide | 0.5 mmol, 175 mg | C(C)(C)(C)C1=CC=C(CN(C(=O)C=2C=CC=C3C=CNC23)CCO)C=C1 | C22H26N2O2
reactant | 3-hydroxy-benzotrifluoride | 0.55 mmol, 91 mg | OC=1C=C(C=CC1)C(F)(F)F | C7H5F3O
reactant | triphenyl phosphine | 0.55 mmol, 144 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | azodicarboxylic acid diethyl ester | 0.55 mmol, 88 μl | C(C)OC(=O)N=NC(=O)OCC | C6H10N2O4
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 1H-Indole-7-carboxylic acid (4-tert-butyl-benzyl)-[2-(3-trifluoromethyl-phenoxy)-ethyl]-amide | 182 mg, 74% | C(C)(C)(C)C1=CC=C(CN(C(=O)C=2C=CC=C3C=CNC23)CCOC2=CC(=CC=C2)C(F)(F)F)C=C1 | C29H29F3N2O2
